US06235731B1
Di-tert-butyl dicarbonate (10.4 g, 47.6 mmol) was added to a stirred solution of 2-oxopiperazine (4.77 g, 47.6 mmol) in ethanol (100 ml) at room temperature. After stirring at room temperature for 1 hour, the reaction mixture was concentrated in vacuo to give 4-tert-butoxycarbonyl-2-oxopiperazine as colorless crystals (8.00 g, 84%), which were collected by filtration and washed with hexane.

reactant | Di-tert-butyl dicarbonate | 47.6 mmol, 10.4 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 2-oxopiperazine | 47.6 mmol, 4.77 g | O=C1NCCNC1 | C4H8N2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 4-tert-butoxycarbonyl-2-oxopiperazine | 8.00 g, 84% | C(C)(C)(C)OC(=O)N1CC(NCC1)=O | C9H16N2O3
